US04105681
9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid chloride is reacted with butyl amide to produce 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl amide, m.p. 178° C.; and

reactant | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid chloride | COC1=C(C(=C(C(=C1)C)C=CC(=CC=CC(=CC(=O)Cl)C)C)C)C | C21H25ClO2
reactant | butyl amide | C(CCC)[NH-]
product | 9-(4-methoxy-2,3,6-trimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl amide | C(CCC)NC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)C)=O | C25H35NO2
